US06340759B1
(245-1) 6,8-Dibromo-1,7-naphthyridine
To 6-amino-8-bromo-1,7-naphthyridine (6.554 g) synthesized according to Tetrahedron Letters, 12, 1233, 1966 was added 48% hydrobromic acid (55 ml). Sodium nitrite (4.141 g) was added thereto in small portions under ice-cooling, and the mixture was stirred overnight. The reaction mixture was basified by adding 5N sodium hydroxide thereto, and it was extracted with ethyl acetate. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a yellowish orange solid (2.856 g, yield; 34%).

reactant | 6-amino-8-bromo-1,7-naphthyridine | 6.554 g | NC=1C=C2C=CC=NC2=C(N1)Br | C8H6BrN3
reactant | hydrobromic acid | 55 ml | Br | BrH
reactant | Sodium nitrite | 4.141 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 5N | [OH-].[Na+]
product | 6,8-Dibromo-1,7-naphthyridine | 2.856 g, yield; 34% | BrC=1C=C2C=CC=NC2=C(N1)Br | C8H4Br2N2
